US07498440B2
Preparation of 1-(3-bromopropyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0979 g, 0.334 mmol) and 1,3-dibromopropane (0.35 mL, 3.448 mmol) in 2 CH3CN/3 CHCl3 (15.0 mL) were reacted to give the desired product (0.0712 g, 43.1%). EI-MS m/z 415(M+) Rt (1.79 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.334 mmol, 0.0979 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1,3-dibromopropane | 3.448 mmol, 0.35 mL | BrCCCBr | C3H6Br2
solvent | CH3CN | 15.0 mL | CC#N | C2H3N
product | 1-(3-bromopropyl)-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0712 g, 43.1% | [Br-].BrCCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C23H29BrNO.BrH/c24-15-7-16-25-17-12-22(13-18-25,14-19-25)23(26,20-8-3-1-4-9-20)21-10-5-2-6-11-21;/h1-6,8-11,26H,7,12-19H2;1H/q+1;/p-1
